US08461209B2
(1) N-ethylglycine ethyl ester hydrochloride
To ethanol (30 mL) was added dropwise thionyl chloride (2.6 mL) at −10° C., and the mixture was stirred for 15 min. N-ethylglycine (1.0 g) was added to this solution at −10° C., and the mixture was allowed to warm to room temperature while stirring for 17 hr. The reaction mixture was concentrated under reduced pressure to give the title compound (1.63 g) as a white solid.

reactant | thionyl chloride | 2.6 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N-ethylglycine | 1.0 g | C(C)NCC(=O)O | C4H9NO2
reactant | ethanol | 30 mL | C(C)O | C2H6O
product | N-ethylglycine ethyl ester hydrochloride | 1.63 g | Cl.C(C)OC(CNCC)=O | InChI=1S/C6H13NO2.ClH/c1-3-7-5-6(8)9-4-2;/h7H,3-5H2,1-2H3;1H
